US05466823
Step 1: Preparation of 4,4-difluoro-1-[4-(trifluoromethyl)phenyl]-butane-1,3-dione
Ethyl difluoroacetate (2.78 g, 22.4 mmol) was placed in a 100 mL round bottom flask and dissolved in ether (10 mL). To the stirred solution was added 25 weight % sodium methoxide (6.02 g, 27.8 mmol) followed by 4'-(trifluoromethyl)acetophenone (3.80 g, 20.2 mmol) and THF (20 mL). The reaction was stirred air room temperature overnight (15.6 hours), then treated with 3N HCl (20 mL). The organic layer was collected and washed with brine, dried over MgSO4, concentrated in vacuo to give a brown oil (4.88 g, 91%). 1H NMR (acetone d6) 300 MHz 15.10 (br s, 1H), 8.03 (d, J=8.7 Hz, 2H), 7.77 (d, J=8.5 Hz, 2H), 6.59 (s, 1H), 6.02 (t, J=54.2 Hz, 1H); 19F NMR (acetone d6) 300 MHz: - 63.70 (s), -127.10 (d); M+266.

reactant | Ethyl difluoroacetate | 22.4 mmol, 2.78 g | FC(C(=O)OCC)F | C4H6F2O2
reactant | sodium methoxide | 27.8 mmol, 6.02 g | C[O-].[Na+]
reactant | 4'-(trifluoromethyl)acetophenone | 20.2 mmol, 3.80 g | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
reactant | HCl | 3N, 20 mL | Cl | ClH
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4,4-difluoro-1-[4-(trifluoromethyl)phenyl]-butane-1,3-dione | 4.88 g, 91% | FC(C(CC(=O)C1=CC=C(C=C1)C(F)(F)F)=O)F | C11H7F5O2
